US06017952
b) 3-Bromo-4-n-butylthiophene-2-carboxaldehyde
To a solution of freshly prepared LDA (11.40 mmol) in THF (7 mL) at -78° C. was added slowly 3-bromo-4-butylthiophene of Example l(a) (2.50 g, 11.40 mmol) in THF (10 mL). After stirring for 15 min, DMF (0.94 mL, 12.10 mmol) in THF (2 mL) was dropwise added. The resulting mixture was stirred for 1 h at -78° C. and then allowed to warm to room temperature. The reaction was quenched with water and extracted with EtOAc (2×50 mL). The combined organic extracts were washed with H2O, brine and dried (MgSO4). After removing the solvent under reduced pressure, column chromatography (silica gel, EtOAc/Hexane, 20:80) of the residue afforded the title compound as an oil (1.87 g, 60%).

reactant | LDA | 11.40 mmol | [Li+].CC(C)[N-]C(C)C
reactant | 3-bromo-4-butylthiophene | BrC1=CSC=C1CCCC | C8H11BrS
reactant | DMF | 12.10 mmol, 0.94 mL | CN(C)C=O | C3H7NO
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-Bromo-4-n-butylthiophene-2-carboxaldehyde | 1.87 g, 60% | BrC1=C(SC=C1CCCC)C=O | C9H11BrOS
